US04133836
690 g (8.2 moles) of 3-methyl-but-2-en-1-al, 1730 g (20 moles) of 3-methyl-but-2-en-1-ol and 23 mg of 65% strength nitric acid (corresponding to 0.62 × 10-4 % by weight of 100% strength HNO3, based on 2,420 g of starting compounds) are boiled under 60 mm Hg in a 4 liter flask surmounted by a packed column (filled with 5 mm Raschig rings). The bottom temperature assumes a value of 76-88° C. The packed column has a diameter of 45 mm and has 30 theoretical plates. The water formed in the reaction is taken off at the top of the column and the organic material which separates from the water is returned continuously into the top of the column. With a reflux of 600 g/hour, quantitative conversion of the aldehyde is achieved after 4.5 hours. 1,1-Bis-(3-methyl-but-2-en-1-yl-oxy)-3-methyl-but-2-ene is obtained about 99% pure after distilling off the excess alcohol, the yield being 98.6% based on 3-methyl-but-2-en-1-al and 98.2% based on 3-methyl-but-2-en-1-ol.

reactant | 3-methyl-but-2-en-1-al | 8.2 moles, 690 g | CC(=CC=O)C | C5H8O
reactant | 3-methyl-but-2-en-1-ol | 20 moles, 1730 g | CC(=CCO)C | C5H10O
reactant | nitric acid | 2,420 g | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 1,1-Bis-(3-methyl-but-2-en-1-yl-oxy)-3-methyl-but-2-ene | CC(=CCOC(C=C(C)C)OCC=C(C)C)C | C15H26O2
